US06562811B1
To a solution of tert-butyl 2-[(7-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)-oxy]phenyl}-2-oxo-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl)amino]ethyl-carbamate (0.032 g, 0.054 mmol) in 1,4-dioxane (1 mL) was added 4N HCl in 1,4-dioxane (1 mL). The mixture was stirred at room temperature overnight. The resulting precipitate was collected by filtration, washed with ethyl acetate to give 5-[(2-aminoethyl)amino]-7-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-2-one hydrochloride as a solid (0.013 g, yield; 59%).

reactant | tert-butyl 2-[(7-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)-oxy]phenyl}-2-oxo-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl)amino]ethyl-carbamate | 0.054 mmol, 0.032 g | C1(CC1)COC1=C(C(=CC=C1)OCC1=CC=C(C=C1)OC)C=1C=C(C2=C(NC(OC2)=O)N1)NCCNC(OC(C)(C)C)=O | C32H38N4O7
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 5-[(2-aminoethyl)amino]-7-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-2-one hydrochloride | 0.013 g, yield; 59% | Cl.NCCNC1=CC(=NC=2NC(OCC21)=O)C2=C(C=CC=C2O)OCC2CC2 | InChI=1S/C19H22N4O4.ClH/c20-6-7-21-13-8-14(22-18-12(13)10-27-19(25)23-18)17-15(24)2-1-3-16(17)26-9-11-4-5-11;/h1-3,8,11,24H,4-7,9-10,20H2,(H2,21,22,23,25);1H
